US07723336B2
N6-(trans-4-aminocyclohexyl)-N8-(2,6-difluorophenyl)imidazo[1,2-b]pyridazine-6,8-diamine
To crude 6-chloro-N-(2,6-difluorophenyl)imidazo[1,2-b]pyridazin-8-amine (0.186 mmol) from 1a was added trans-1,4-diaminocyclohexane (1000 mg, 8.77 mmol). The mixture was allowed to melt at 160° C. for 24 hrs. The melt was then cooled, water was added, followed by extraction with dichloromethane. The organic layer was then concentrated in vacuo and the resulting residue purified by reverse phase preparative HPLC to provide 50.6 mg (46%) of the titled compound as a TFA salt. LC/MS, m/e 359 (M+1). HPLC Rt, 1.7 min. YMC ODSC18 column (4.6×50 mm). 0%-100% B. Solvent B: (90% MeOH, 10% H2O, 0.1% TFA). Solvent A: (10% MeOH, 90% H2O, 0.1% TFA). Gradient, start % B=0, final % B=100, gradient time 4 min, hold at 100% B 1 min, flow rate 4 mL/min. Examples prepared in a similar manner are indicated in Table 2.

reactant | 6-chloro-N-(2,6-difluorophenyl)imidazo[1,2-b]pyridazin-8-amine | 0.186 mmol | ClC=1C=C(C=2N(N1)C=CN2)NC2=C(C=CC=C2F)F | C12H7ClF2N4
reactant | trans-1,4-diaminocyclohexane | 8.77 mmol, 1000 mg | N[C@@H]1CC[C@H](CC1)N | C6H14N2
solvent | water | O | H2O
product | N6-(trans-4-aminocyclohexyl)-N8-(2,6-difluorophenyl)imidazo[1,2-b]pyridazine-6,8-diamine | 50.6 mg, 46% | N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C=CN2)NC2=C(C=CC=C2F)F | C18H20F2N6
